US07517873B2
A mixture of 0.02 g (0.00005 mole) of (rac)-4-(9-cyclopentyl-5,7-dimethyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-yl amino)-benzoic acid (I-5), 0.023 g (0.00006 mole) of 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium-3-oxide hexafluorophosphate, 0.018 mL (0.0001 mole) of ethyldiisopropyl amine and 1.0 mL of dimethylformamide was stirred for 5 minutes and then 0.0085 g (0.000075 mole) of 4-amino-1-methyl-piperidine was added. The mixture was stirred for 3 hours, then diluted with 10 mL of water plus 2 mL of saturated sodium bicarbonate and then extracted 3 times with 10 mL of ethyl acetate. The combined extracts were washed with brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by C18 reverse phase silica gel chromatography, eluting with an acetonitrile-water gradient (20:80-100:0) to give 0.015 g of (rac)-4-(9-cyclopentyl-5,7-dimethyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(1-methyl-piperidin-4-yl)-benzamide (I-6) as a white solid.

reactant | (rac)-4-(9-cyclopentyl-5,7-dimethyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-yl amino)-benzoic acid | 0.00005 mole, 0.02 g | C1(CCCC1)N1C2=C(N(C(C(C1)C)=O)C)C=NC(=N2)NC2=CC=C(C(=O)O)C=C2 | C21H25N5O3
reactant | 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium-3-oxide hexafluorophosphate | 0.00006 mole, 0.023 g | F[P-](F)(F)(F)(F)F.CN(C)C(=[N+]1N=[N+](C2=NC=CC=C21)[O-])N(C)C
reactant | ethyldiisopropyl amine | 0.0001 mole, 0.018 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 4-amino-1-methyl-piperidine | 0.000075 mole, 0.0085 g | NC1CCN(CC1)C | C6H14N2
solvent | water | 10 mL | O | H2O
solvent | sodium bicarbonate | 2 mL | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
product | (rac)-4-(9-cyclopentyl-5,7-dimethyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(1-methyl-piperidin-4-yl)-benzamide | 0.015 g | C1(CCCC1)N1C2=C(N(C(C(C1)C)=O)C)C=NC(=N2)NC2=CC=C(C(=O)NC1CCN(CC1)C)C=C2 | C27H37N7O2
